US06949552B2
0.12 g of (+)-1-[2-(4-Fluorophenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine was dissolved in 4 ml of methanol, and 1 ml of 4M hydrogen chloride/ethyl acetate solution was added. After concentration under reduced pressure, the resulting solid was washed with ethyl acetate to give 0.12 g of (+)-1-[2-(4-fluorophenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine tetrahydrochloride.

reactant | (+)-1-[2-(4-Fluorophenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine | 0.12 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)N1CCN(CC1)C(C)C | C34H47FN4O
reactant | hydrogen chloride ethyl acetate | 4M, 1 ml | Cl.C(C)(=O)OCC
solvent | methanol | 4 ml | CO | CH4O
product | (+)-1-[2-(4-fluorophenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine tetrahydrochloride | 0.12 g | Cl.Cl.Cl.Cl.FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)N1CCN(CC1)C(C)C | InChI=1S/C34H47FN4O.4ClH/c1-27(2)38-22-24-39(25-23-38)33(29-11-14-30(35)15-12-29)26-37-20-18-36(19-21-37)17-7-6-10-32-31-9-5-4-8-28(31)13-16-34(32)40-3;;;;/h4-5,8-9,11-16,27,33H,6-7,10,17-26H2,1-3H3;4*1H
